US09359338B2
Step 2: Synthesis of 3-(1-methylpyrrolidin-3-yloxy)-5-(trifluoromethyl)aniline
Add Pd/C (10%, 400 mg) to the solution of 1-methyl-3-(3-nitro-5-(trifluoromethyl) phenoxy)pyrrolidine (1.54 g, 5.31 mmol) in methanol (10 mL). Stir the mixture under hydrogen atmosphere at room temperature for 15 hrs. Filter off the solid and concentrate the filtrate to give crude product. Purify by flash chromatography (silica gel, EtOAc:PE=1:1) to afford the target compound (900 mg, 65%). MS: (M+1): 261.1.

reactant | 1-methyl-3-(3-nitro-5-(trifluoromethyl) phenoxy)pyrrolidine | 5.31 mmol, 1.54 g | CN1CC(CC1)OC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C12H13F3N2O3
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | 3-(1-methylpyrrolidin-3-yloxy)-5-(trifluoromethyl)aniline | 900 mg, 65% | CN1CC(CC1)OC=1C=C(N)C=C(C1)C(F)(F)F | C12H15F3N2O
